US05734042
ganciclovir.
3'-deoxy-3'-azidothymidine, 3'-deoxy-3'-fluorothymidine, 5-fluorouridine, 6-mercaptopurine-9-β-D-ribofuranoside, 6-methylmercaptopurine-9-β-D-ribofuranoside, 9-{[(1-hydroxymethyl)ethoxy]-methyl}guanine and 9- (ethoxymethyl)guanine.

reactant | 3'-deoxy-3'-azidothymidine | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1 | C10H13N5O4
reactant | 3'-deoxy-3'-fluorothymidine | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1 | C10H13FN2O4
reactant | 5-fluorouridine | FC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11FN2O6
reactant | 6-mercaptopurine-9-β-D-ribofuranoside | C1=NC(=S)C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H12N4O4S
reactant | 9-{[(1-hydroxymethyl)ethoxy]-methyl}guanine | OCCCOCN1C=2N=C(NC(C2N=C1)=O)N | C9H13N5O3
reactant | 9- (ethoxymethyl)guanine | C(C)OCN1C=2N=C(NC(C2N=C1)=O)N | C8H11N5O2
product | ganciclovir | C1=NC2=C(N1COC(CO)CO)N=C(N=C2O)N | C9H13N5O4
